### ISSUE TITLE
Proof obligation for `Lift.` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#29]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L177)

**Code Snippet:**
```lean
theorem Lift.symm {p : PMF α} {q : PMF β} {R : Set (α × β)}
    (hpq : Lift p R q) : Lift q (Prod.swap ⁻¹' R) p := by
  rcases hpq with ⟨c, hc, hsupp⟩
  refine ⟨_, (IsCoupling.symm hc), ?_⟩
  intro y hy
  -- If `(b,a)` has nonzero mass under `c.map swap`, then `(a,b)` has nonzero mass under `c`.
  -- Transport membership through `swap`.
  sorry
```
